US05232917
a. 3α-Acetoxy-17α-bromo-5α-pregnan-20-one
3α-Acetoxy-5α-pregnan-20-one (3 g, 360.5 g/m, 8.3 mmol), N-bromosuccinimide (2.7 g, 178 g/m, 15 mmol), and benzoyl peroxide (200 mg, 242 g/m, 0.83 mmol) dissolved in 50 ml of carbon tetrachloride were refluxed overnight (ca. 16h). The reaction mixture was cooled, filtered, and washed with sodium bisulfite, water, and brine, and then concentrated to give a crude reddish oil.

reactant | 3α-Acetoxy-5α-pregnan-20-one | 8.3 mmol, 3 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H36O3
reactant | N-bromosuccinimide | 15 mmol, 2.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.83 mmol, 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3α-Acetoxy-17α-bromo-5α-pregnan-20-one | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@](C(C)=O)([C@]4(CC[C@@H]3[C@]2(CC1)C)C)Br | C23H35BrO3
